US05700819
To dimethylsulfoxide (DMSO; 6 ml) was added 4,5,7-trifluoro-2-mercaptobenzothiazole (442 mg, 2 mmol), N-chloroacetyl-N-phenylglycine methyl ester (479 mg, 2 mmol), calcium carbonate (276 mg, 2 mmol) and potassium iodide (20 mg) and the mixture was stirred at room temperature for 1 hour. The resultant reaction mixture was diluted with water, acidified with 7% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried and then evaporated to yield a residue, which was crystallized from isopropyl ether to give N-[2-(4,5,7-trifluorobenzothiazol-2-ylthio)acetyl]-N-phenylglycine methyl ester (700 mg, 82%) as a colorless powder.

reactant | 4,5,7-trifluoro-2-mercaptobenzothiazole | 2 mmol, 442 mg | FC1=C(C=C(C2=C1N=C(S2)S)F)F | C7H2F3NS2
reactant | N-chloroacetyl-N-phenylglycine methyl ester | 2 mmol, 479 mg | COC(CN(C1=CC=CC=C1)C(CCl)=O)=O | C11H12ClNO3
reactant | calcium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[Ca+2]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
catalyst | potassium iodide | 20 mg | [I-].[K+]
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | N-[2-(4,5,7-trifluorobenzothiazol-2-ylthio)acetyl]-N-phenylglycine methyl ester | 700 mg, 82% | COC(CN(C1=CC=CC=C1)C(CSC=1SC2=C(N1)C(=C(C=C2F)F)F)=O)=O | C18H13F3N2O3S2
